US06376539B1
cis-1-Benzyl-8-oxabicyclo[4.3.0]nonan-9-one
Under argon, a solution of diisopropylamine (3.85 ml, 27.5 mmol) in 20 ml of dry THF is cooled to 0° C. and slowly admixed with butyllithium (11 ml, 27.5 mmol, 2.5M in hexane). With ice-cooling. This solution is stirred for 15 min and then cooled to −78° C. and a solution of cis-8-oxabicyclo[4.3.0]nonan-9-one (3.5 g, 25 mmol) in 10 ml of THF is added dropwise. The mixture is stirred at −78° C. for another 30 min and then mixed with benzyl bromide (3.27 ml, 27 mmol). The mixture is then slowly warmed to room temperature and stirred for another 16 h. The solvent is removed and the residue is taken up in 20 ml of dichloromethane and washed 2× with in each case 20 ml of 2 M HCl. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is purified by column chromatography (mobile phase: cyclohexane:ethyl acetate 10:1).

reactant | diisopropylamine | 27.5 mmol, 3.85 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 27.5 mmol, 2.5M, 11 ml | C(CCC)[Li]
reactant | cis-8-oxabicyclo[4.3.0]nonan-9-one | 25 mmol, 3.5 g | [C@@H]12CCCC[C@H]2COC1=O | C8H12O2
reactant | benzyl bromide | 27 mmol, 3.27 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | cis-1-Benzyl-8-oxabicyclo[4.3.0]nonan-9-one | C(C1=CC=CC=C1)[C@@]12CCCC[C@H]2COC1=O | C15H18O2
